US05629321
Under cooling, 1.8 ml of thionyl chloride was dropwise added slowly to 20 ml of methanol. After 10 minutes, 1.5 g of 7-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-acetic acid was added and stirred overnight at room temperature. The solvent was distilled off under reduced pressure to obtain 1.6 g of methyl 7-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-acetate.

reactant | thionyl chloride | 1.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 7-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-acetic acid | 1.5 g | COC1=CC=C2CCC(C(C2=C1)=O)CC(=O)O | C13H14O4
reactant | methanol | 20 ml | CO | CH4O
product | methyl 7-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-acetate | 1.6 g | COC1=CC=C2CCC(C(C2=C1)=O)CC(=O)OC | C14H16O4
